US06833384B2
4-formylcinnamic acid methylester is produced by adding 4-formylcinnamic acid (25 g, 0.143 mol) in MeOH and HCl (6.7 g, 0.18 mol). The resulting suspension is heated to reflux for 3 hours, cooled and evaporated to dryness. The resulting yellow solid is dissolved in EtOAc, the solution washed with saturated NaHCO3, dried (MgSO4) and evaporated to give a pale yellow solid which is used without further purification (25.0 g, 92%). To a solution of tryptamine (16.3 g, 100 mmol) and 4-formylcinnamic acid methylester (19 g, 100 mmol) in dichloroethane, NaBH(OAc)3 (21 g, 100 mmol) is added. After 4 hours the mixture is diluted with 10% K2CO3 solution, the organic phase separated and the aqueous solution extracted with CH2Cl2. The combined organic extracts are dried (Na2SO4), evaporated and the residue purified by flash chromatography to produce 3-(4-{[2-(1H-indol-3-yl)-ethylamino]-methyl}-phenyl)-(2E)-2-propenoic acid methyl ester (29 g). A solution of KOH (12.9 g 87%, 0.2 mol) in MeOH (100 mL) is added to a solution of HONH2·HCl (13.9 g, 0.2 mol) in MeOH (200 mL) and a precipitate results. After 15 minutes the mixture is filtered, the filter cake washed with MeOH and the filtrate evaporated under vacuum to approximately 75 mL. The mixture is filtered and the volume adjusted to 100 mL with MeOH. The resulting solution 2M HONH2 is stored under N2 at −20° C. for up to 2 weeks. Then 3-(4-{[2-(1H-indol-3-yl)-ethylamino]-methyl}-phenyl)-(2E)-2-propenoic acid methyl ester (2.20 g, 6.50 mmol) is added to 2 M HONH2 in MeOH (30 mL, 60 mmol) followed by a solution of KOH (420 mg, 6.5 mmol) in MeOH (5 mL). After 2 hours dry ice is added to the reaction and the mixture is evaporated to dryness. The residue is dissolved in hot MeOH (20 mL), cooled and stored at −20 ° C. overnight. The resulting suspension is filtered, the solids washed with ice cold MeOH and dried under vacuum, producing N-Hydroxy-3-[4-[[[2-(1H-indol-3-yl)-ethyl]-amino]methyl]phenyl]-2E-2-propenamide (m/z 336 [MH+]).

reactant | KOH | 0.2 mol, 12.9 g | [OH-].[K+]
reactant | HONH2·HCl | 0.2 mol, 13.9 g | ON.Cl
reactant | 3-(4-{[2-(1H-indol-3-yl)-ethylamino]-methyl}-phenyl)-(2E)-2-propenoic acid methyl ester | 6.50 mmol, 2.20 g | COC(\C=C\C1=CC=C(C=C1)CNCCC1=CNC2=CC=CC=C12)=O | C21H22N2O2
reactant | HONH2 | 2 M | ON | H3NO
reactant | KOH | 6.5 mmol, 420 mg | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
solvent | MeOH | 100 mL | CO | CH4O
solvent | MeOH | 200 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 60 mmol, 30 mL | CO | CH4O
product | N-Hydroxy-3-[4-[[[2-(1H-indol-3-yl)-ethyl]-amino]methyl]phenyl]-2E-2-propenamide | ONC(\C=C\C1=CC=C(C=C1)CNCCC1=CNC2=CC=CC=C12)=O | C20H21N3O2
